US04021451
1,2,3,4,7,8,10,11-Octahydro-N,N,10-trimethylbenzo[g]pyrano[3,4-b]indole-10-acetamide
1,2,3,4,7,8,10,11-Octahydro-10-methylbenzo[g]pyrano[3,4-b]indole-10-acetic acid (4.5 g), described in Example 69, is suspended in anhydrous tetrahydrofuran (120 ml), triethylamine (4.2 ml) is added, followed by dropwise addition of ethyl chloroformate (2.14 ml) at -5° C. After stirring for 105 minutes at 0° C., the solution is added dropwise at 0° C., to a stirred solution of 40% aqueous dimetyl amine (62 ml). After 2 hr. at room temperature, the tetrahydrofuran is evaporated and water added. The mixture is extracted with chloroform, the organic solution washed with water (2 ×), dried and taken to dryness to give the title compound, m.p. 176° - 178° C., νmaxCHCl3 3360, 1630 cm-1. This compound exhibits antibacterial activity.

reactant | 1,2,3,4,7,8,10,11-Octahydro-10-methylbenzo[g]pyrano[3,4-b]indole-10-acetic acid | 4.5 g | CC1(OCCC2=C1NC=1C3=C(C=CC21)CCCC3)CC(=O)O | C18H21NO3
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.14 ml | ClC(=O)OCC | C3H5ClO2
reactant | dimetyl amine | 62 ml | CNC | C2H7N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1,2,3,4,7,8,10,11-Octahydro-N,N,10-trimethylbenzo[g]pyrano[3,4-b]indole-10-acetamide | CN(C(CC1(OCCC2=C1NC=1C3=C(C=CC21)CCCC3)C)=O)C | C20H26N2O2
